US09447083B2
Synthesis of 2-(4-(2-aminopyrimidin-5-yl)-2,6-dimethylphenoxy)acetohydrazide: methyl 2-(4-(2-aminopyrimidin-5-yl)-2,6-dimethylphenoxy)acetate (0.28 g, 1 mmol) was dissolved in EtOH. Hydrazine monohydrate (0.06 g, 1.2 mmol) was added thereto, followed by stirring at 100° C. for 8 hours under reflux. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The formed solid was filtered to obtained 2-(2,6-dimethyl-4-(pyrimidin-5-yl)phenoxy)acetohydrazide (0.31 g, 100%).

reactant | 2-(4-(2-aminopyrimidin-5-yl)-2,6-dimethylphenoxy)acetohydrazide | NC1=NC=C(C=N1)C1=CC(=C(OCC(=O)NN)C(=C1)C)C | C14H17N5O2
reactant | methyl 2-(4-(2-aminopyrimidin-5-yl)-2,6-dimethylphenoxy)acetate | 1 mmol, 0.28 g | NC1=NC=C(C=N1)C1=CC(=C(OCC(=O)OC)C(=C1)C)C | C15H17N3O3
reactant | Hydrazine monohydrate | 1.2 mmol, 0.06 g | O.NN
solvent | EtOH | CCO | C2H6O
product | 2-(2,6-dimethyl-4-(pyrimidin-5-yl)phenoxy)acetohydrazide | 0.31 g, 100% | CC1=C(OCC(=O)NN)C(=CC(=C1)C=1C=NC=NC1)C | C14H16N4O2
